US09212168B2
(a) (R)-4-[5-(5-Fluoro-4′-{2-[(2S,4S)-1-((S)-2-methoxycarbonylamino-3-methyl-butyryl)-4-methyl-pyrrolidin-2-yl]-1H-imidazol-4-yl}-2-trifluoromethoxy-biphenyl-4-ylcarbamoyl)-pyridin-2-yl]-3-methyl-piperazine-1-carboxylic acid tert-butyl ester
To a solution of [(S)-2-methyl-1-((2S,4S)-4-methyl-2-{4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester (170 mg, 0.33 mmol) and (R)-4-[5-(4-bromo-2-fluoro-5-trifluoromethoxy-phenylcarbamoyl)-pyridin-2-yl]-3-methyl-piperazine-1-carboxylic acid tert-butyl ester (192 mg, 0.33 mmol, Preparation 24) dissolved in toluene (2.1 mL) and water (0.8 mL) was added potassium carbonate (230 mg, 1.67 mmol). The reaction mixture was sparged with nitrogen, Pd(dppf)Cl2CH2Cl2 (25 mg, 0.03 mmol) was added and the reaction mixture was sparged with nitrogen and heated at 90° C. overnight. The reaction mixture was cooled to RT, filtered through a pad of Celite® and silica gel and washed with EtOAc. The filtrate was washed with water and brine to produce a brownish colored oil. The residue was purified by silica gel chromatography (24 g, 40% to 100% EtOAc/hexanes) to produce the title intermediate as a yellowish solid (227 mg, 78% yield). (m/z): [M+H]+ calcd for C44H52F4N8O7 881.39. found 881.4.

reactant | [(S)-2-methyl-1-((2S,4S)-4-methyl-2-{4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester | 0.33 mmol, 170 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](C[C@@H](C1)C)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C27H39BN4O5
reactant | (R)-4-[5-(4-bromo-2-fluoro-5-trifluoromethoxy-phenylcarbamoyl)-pyridin-2-yl]-3-methyl-piperazine-1-carboxylic acid tert-butyl ester | 0.33 mmol, 192 mg | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)C1=NC=C(C=C1)C(NC1=C(C=C(C(=C1)OC(F)(F)F)Br)F)=O)C | C23H25BrF4N4O4
reactant | water | 0.8 mL | O | H2O
reactant | potassium carbonate | 1.67 mmol, 230 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 2.1 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-4-[5-(5-Fluoro-4′-{2-[(2S,4S)-1-((S)-2-methoxycarbonylamino-3-methyl-butyryl)-4-methyl-pyrrolidin-2-yl]-1H-imidazol-4-yl}-2-trifluoromethoxy-biphenyl-4-ylcarbamoyl)-pyridin-2-yl]-3-methyl-piperazine-1-carboxylic acid tert-butyl ester | 227 mg, 78% yield | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)C1=NC=C(C=C1)C(NC1=CC(=C(C=C1F)C1=CC=C(C=C1)C=1N=C(NC1)[C@H]1N(C[C@H](C1)C)C([C@H](C(C)C)NC(=O)OC)=O)OC(F)(F)F)=O)C | C44H52F4N8O7
